US07902207B2
(1) Synthesis of N,N′-di-p-toluenesulfonyl-1,2-phenylenediamine
To a solution in which 1,2-phenylenediamine (0.5 mmol) was dissolved in pyridine (1 mL) was added p-toluenesulfonyl chloride (1.1 mmol) at room temperature, and the mixture was reacted for 6 hours with stirring. After completion of the reaction, the reaction mixture was diluted with dichloromethane, and back extracted using 1N hydrochloric acid to remove pyridine. After the organic layer was dried with anhydrous sodium sulfate, and concentrated. The obtained solid was washed using diethyl ether on a Buchner funnel, and dried under reduced pressure to obtain an objective substance as a white solid in a yield of more than 95% yield.

reactant | 1,2-phenylenediamine | 0.5 mmol | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | p-toluenesulfonyl chloride | 1.1 mmol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N′-di-p-toluenesulfonyl-1,2-phenylenediamine | yield of more than 95% yield | C1(=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C20H20N2O4S2
